US08791108B2
(2S)-Ethyl 2-(tert-butoxy)-2-(3-chloro-2-((4-fluoro-3-methylbenzyl)carbamoyl)-7-(8-fluoro-5-methylchroman-6-yl)-5-methylpyrazolo[1,5-a]pyrimidin-6-yl)acetate
To a solution of (2S)-ethyl 2-(tert-butoxy)-2-(2-((4-fluoro-3-methylbenzyl)carbamoyl)-7-(8-fluoro-5-methylchroman-6-yl)-5-methylpyrazolo[1,5-a]pyrimidin-6-yl)acetate (40 mg, 0.064 mmol, 1 equiv) in acetic acid (0.64 mL) was added NCS (10 mg, 0.077 mmol, 1.2 equiv). After stirring 18 h, reaction is pale yellow solution. LCMS indicated complete conversion. The reaction was diluted with DCM and washed with saturated aqueous bicarbonate. The DCM layer was dried (Na2SO4) and concentrated in vacuo. The crude product was purified by flash silica gel chromatography (0-10% EtOAc in hexane) to provide desired product as a viscous yellow oil (22 mg, 52% yield). 1H NMR (500 MHz, CDCl3) δ 7.16 (s, 1H), 7.12 (d, J=5.7 Hz, 2H), 6.97 (d, J=9.1 Hz, 1H), 6.83 (d, J=10.6 Hz, 1H), 4.97 (s, 1H), 4.62-4.50 (m, 2H), 4.35 (t, J=5.3 Hz, 2H), 4.19-4.11 (m, 2H), 2.84 (s, 3H), 2.75 (s, 2H), 2.27 (d, J=1.7 Hz, 3H), 2.23-2.13 (m, 2H), 1.80 (s, 3H), 1.29 (t, J=7.1 Hz, 3H), 1.17 (s, 9H); 19F NMR (471 MHz, CDCl3) δ −119.48 (s, 1F), −139.47 (s, 1F); LCMS (ESI, M+1): 655.5.

reactant | (2S)-ethyl 2-(tert-butoxy)-2-(2-((4-fluoro-3-methylbenzyl)carbamoyl)-7-(8-fluoro-5-methylchroman-6-yl)-5-methylpyrazolo[1,5-a]pyrimidin-6-yl)acetate | 0.064 mmol, 40 mg, 1 equiv | C(C)(C)(C)O[C@H](C(=O)OCC)C=1C(=NC=2N(C1C=1C(=C3CCCOC3=C(C1)F)C)N=C(C2)C(NCC2=CC(=C(C=C2)F)C)=O)C | C34H38F2N4O5
reactant | NCS | 0.077 mmol, 10 mg, 1.2 equiv | C1CC(=O)N(C1=O)Cl | C4H4ClNO2
solvent | acetic acid | 0.64 mL | C(C)(=O)O | C2H4O2
solvent | DCM | C(Cl)Cl | CH2Cl2
product | (2S)-Ethyl 2-(tert-butoxy)-2-(3-chloro-2-((4-fluoro-3-methylbenzyl)carbamoyl)-7-(8-fluoro-5-methylchroman-6-yl)-5-methylpyrazolo[1,5-a]pyrimidin-6-yl)acetate | 22 mg, 52% yield | C(C)(C)(C)O[C@H](C(=O)OCC)C=1C(=NC=2N(C1C=1C(=C3CCCOC3=C(C1)F)C)N=C(C2Cl)C(NCC2=CC(=C(C=C2)F)C)=O)C | C34H37ClF2N4O5
